US06090804
1-[5-(5-Methyl-1H-1,2,4-triazol-3-yl]-2-thenyl)hexahydro-1H-azepine dihydrochloride
To 5 ml of ethanol solution containing 1.01 g (4.0 mmol) of 2-(hexahydro-1H-azepin-1-yl)methylthiophene-5-carboxylic acid hydrazide was added 2.8 ml (20 mmol) of triethylamine and 2.48 g (20 mmol) of ethyl acetoimidate hydrochloride, and the mixture was stirred at room temperature for 21 hours. Then, 1.2 g of ammonium chloride was added and the mixture was stirred at 80° C. for 4 hours. The reaction solution was concentrated, 28% aqueous ammonia and chloroform were added to the resulting residue, and then the resulting organic layer was separated and dried over anhydrous magnesium sulfate. The solvent was evaporated and the resulting residue was subjected to a silica gel column chromatography, which was eluted with chloroform-methanol (80:1) to give 814 mg of the title compound in its free form. By subjecting this compound to salt formation using 4 N HCl/ethyl acetate, 593 mg of the title compound was obtained.

reactant | 2-(hexahydro-1H-azepin-1-yl)methylthiophene-5-carboxylic acid hydrazide | 4.0 mmol, 1.01 g | N1(CCCCCC1)CC=1SC(=CC1)C(=O)NN | C12H19N3OS
reactant | triethylamine | 20 mmol, 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetoimidate hydrochloride | 20 mmol, 2.48 g | Cl.C(C)(OCC)=N
reactant | ammonium chloride | 1.2 g | [Cl-].[NH4+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-[5-(5-Methyl-1H-1,2,4-triazol-3-yl]-2-thenyl)hexahydro-1H-azepine dihydrochloride | 814 mg | Cl.Cl.CC1=NC(=NN1)C1=CC=C(S1)CN1CCCCCC1 | InChI=1S/C14H20N4S.2ClH/c1-11-15-14(17-16-11)13-7-6-12(19-13)10-18-8-4-2-3-5-9-18;;/h6-7H,2-5,8-10H2,1H3,(H,15,16,17);2*1H
